US05266570
1-[1-(9,10-Dihydro-9,10-methanoanthracen-9-ylmethyl)-4-piperidyl]-3-(cyclopentylmethyl)urea
To a cold (ice bath) stirred solution of cyclopentylmethyamine (664 mg, 6.70 mmol) in methylene chloride (5 mL) was added [(9,10-dihydro-9,10-methanoanthracen-9-ylmethyl)-4-piperidyl]isocyanate hydrochloride (221 mg, 0.67 mmol). After stirring the resulting mixture for 0.5 h, at 0° C., the cooling bath was removed and the reaction was allowed to reach ambient temperature. After stirring for 18 h, the reaction mixture was treated with 1N sodium hydroxide and extracted with methylene chloride (2×50 mL). The combined extracts was washed with 1N sodium hydroxide (2×50 mL) and brine (50 mL), dried (sodium sulfate), and concentrated to give a tan syrup. Chromatography of this material over silica gel (eluant: 98:2 methylene chloride:methanol) affords a white foam. This was triturated with hot ether to provide the title compound as a white solid (101 mg, 35%), mp 197.0°-8.0° C.; MS(CI): 430 (M+H); NMR (300 MHz,DMSO-d6): 1.05-1.35 (m, 4H), 1.38-1.78(m, 8H), 1.89(quintet, 1H, J=7.3 Hz), 2.20-2.36(m, 2H), 2.45(s, 2H), 2.78-2.95(m, 4H), 3.26-3.42(m, submerged, 3H), 4.30(s, 1H), 5.66(d, 1H, J=7.5 Hz), 5.73(t, 1H, J=5.5 Hz), 6.84-6.99(m, 4H), 7.18(d, 2H, J=6.4 Hz), 7.26(d, 2H, J=6.9 Hz).

reactant | cyclopentylmethyamine | 6.70 mmol, 664 mg | C1(CCCC1)CN | C6H13N
reactant | [(9,10-dihydro-9,10-methanoanthracen-9-ylmethyl)-4-piperidyl]isocyanate hydrochloride | 0.67 mmol, 221 mg | Cl.C1=CC=CC=2C3C4=CC=CC=C4C(C12)(C3)CN3CCC(CC3)N=C=O
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-[1-(9,10-Dihydro-9,10-methanoanthracen-9-ylmethyl)-4-piperidyl]-3-(cyclopentylmethyl)urea | 101 mg, 35% | C1=CC=CC=2C3C4=CC=CC=C4C(C12)(C3)CN3CCC(CC3)NC(=O)NCC3CCCC3 | C28H35N3O
